US07420083B2
To a solution of 4-[2-(4-tert-butyl-benzylideneaminooxy)-ethoxy]-2-hydroxy-benzoic acid (0.614 g, 1.72 mmol) in refluxing benzene (15 mL) was added dimethylformamide di-tertbutyl acetal (2.4 mL, 9.01 mmol). The reaction was heated at reflux 1 hour, additional dimethylformamide di-tertbutyl acetal (1.2 mL, 4.50 mmol) was added and heating continued another hour. It was cooled to room temperature, poured into brine and extracted with ethyl acetate. The combined organics dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate/petroleum ether (8/92) to afford 4-[2-(4-tert-butyl-benzylideneaminooxy)-ethoxy]-2-hydroxy-benzoic acid tert-butyl ester (0.609 g, 86%) as a yellow oil. 1H NMR (300 MHz, CDCl3); δ 11.22 (s, 1H), 8.12 (s, 1H), 7.68 (d, 1H), 7.52 (d, 2H), 7.40 (d, 2H), 6.47 (m, 2H), 4.50 (t, 2H), 4.28 (t, 2H), 1.60 (s, 9H), 1.38 (s, 9H).

reactant | 4-[2-(4-tert-butyl-benzylideneaminooxy)-ethoxy]-2-hydroxy-benzoic acid | 1.72 mmol, 0.614 g | C(C)(C)(C)C1=CC=C(C=NOCCOC2=CC(=C(C(=O)O)C=C2)O)C=C1 | C20H23NO5
reactant | benzene | 15 mL | C1=CC=CC=C1 | C6H6
reactant | dimethylformamide di-tertbutyl acetal | 9.01 mmol, 2.4 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | dimethylformamide di-tertbutyl acetal | 4.50 mmol, 1.2 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | brine | [Cl-].[Na+].O
product | 4-[2-(4-tert-butyl-benzylideneaminooxy)-ethoxy]-2-hydroxy-benzoic acid tert-butyl ester | 0.609 g, 86% | C(C)(C)(C)OC(C1=C(C=C(C=C1)OCCON=CC1=CC=C(C=C1)C(C)(C)C)O)=O | C24H31NO5
